US08431563B2
Sodium 4-bromo-3-methylbenzenesulfinate (2.92 mg, 11.36 mmol), 2-amino-5-iodopyridine (1.25 g, 5.68 mmol, Alfa Aesar, Ward Hill, Mass.), copper iodide (216 mg, 1.14 mmol, Strem Chemical Inc, Newburyport, Mass.), potassium carbonate (785 mg, 5.68 mmol), N,N-dimethylethylenediamine (0.25 mL, 2.27 mmol, Alfa Aesar, Ward Hill, Mass.), and DMSO (15 mL) were added to a reaction vial. The vial was closed, purged with nitrogen for several minutes, and heated at 100° C. for 16 h. After cooling to room temperature, the reaction mixture was diluted with water (20 mL) and extracted with EtOAc (20 mL×3). The combined organic extracts were dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material. The crude material was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 20% to 50% EtOAc in hexane, to provide 5-((4-bromo-3-methylphenyl)sulfonyl)-2-pyridinamine (377 mg) as a white solid.

reactant | Sodium 4-bromo-3-methylbenzenesulfinate | 11.36 mmol, 2.92 mg | BrC1=C(C=C(C=C1)S(=O)[O-])C.[Na+]
reactant | 2-amino-5-iodopyridine | 5.68 mmol, 1.25 g | NC1=NC=C(C=C1)I | C5H5IN2
reactant | potassium carbonate | 5.68 mmol, 785 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylethylenediamine | 2.27 mmol, 0.25 mL | CN(CCN)C | C4H12N2
catalyst | copper iodide | 1.14 mmol, 216 mg | [Cu](I)I
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 5-((4-bromo-3-methylphenyl)sulfonyl)-2-pyridinamine | 377 mg | BrC1=C(C=C(C=C1)S(=O)(=O)C=1C=CC(=NC1)N)C | C12H11BrN2O2S
